US07625880B2
4-Bromo-fluorobenzene (10.95 g, 62.57 mmol) was added to diethyl phosphite (8.86 mL, 68.8 mmol) at ambient temperature, followed by the addition of triethylamine (9.6 mL, 68.8 mmol). The resulting solution was degassed with nitrogen followed by the addition of tetrakis(triphenylphosphine)-palladium (3.0 g, 2.6 mmol). The resulting mixture was heated at 90° C. overnight. The reaction mixture was allowed to cool to ambient temperature and then ethyl acetate (350 mL) was added. The solution was washed with saturated sodium bicarbonate (350 mL) and then with saturated brine (2×350 mL). The crude product was purified by vacuum distillation (ca. 98° C., 0.6 Torr) to yield 8.956 g of 4-fluorophenyl-phosphonic acid diethyl ester (38.6 mmol, 94% yield) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.88-7.80 (m, 2H); 7.20-7.14 (m 2H); 4.22-4.04 (m, 4H); 1.36-1.32 (t, 6H); ESMS (m/z): M+1)+ found, 233.

reactant | 4-Bromo-fluorobenzene | 62.57 mmol, 10.95 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | diethyl phosphite | 68.8 mmol, 8.86 mL | P(OCC)(OCC)[O-]
reactant | triethylamine | 68.8 mmol, 9.6 mL | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)-palladium | 2.6 mmol, 3.0 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
product | 4-fluorophenyl-phosphonic acid diethyl ester | 38.6 mmol, 8.956 g, 94% yield | C(C)OP(OCC)(=O)C1=CC=C(C=C1)F | C10H14FO3P
